US08669234B2
A mixture of (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (364 mg, 0.81 mmol), Ethynyl-trimethyl-silane (0.68 mL, 4.9 mmol), Copper(I) iodide (154 mg, 0.81 mmol), tetrakis(triphenylphosphine)palladium (94 mg, 0.08 mmol) and triethylamine (0.67 mL, 4.9 mmol) in 5 ml DMF was heated to 70° C. overnight. The reaction mixture was cooled and dissolved in ethyl acetate and washed with 5% lithium chloride aqueous solution. The organic layer was dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 20 to 100% ethyl acetate/hexane) and followed by preparative reverse phase HPLC (GEMINI, 5 to 100% ACN/H2O+0.1% TFA) to give (2-Methyl-1-{2-[5-(4-trimethylsilanylethynyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-propyl)-carbamic acid methyl ester (324 mg).

reactant | (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.81 mmol, 364 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
reactant | Ethynyl-trimethyl-silane | 4.9 mmol, 0.68 mL | C(#C)[Si](C)(C)C | C5H10Si
reactant | triethylamine | 4.9 mmol, 0.67 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Copper(I) iodide | 0.81 mmol, 154 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.08 mmol, 94 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2-Methyl-1-{2-[5-(4-trimethylsilanylethynyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-propyl)-carbamic acid methyl ester | 324 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C25H34N4O3Si
